US07834021B2
To a solution of 1,4-dioxaspiro[4.5]decan-8-ol (1.05 g, 6.63 mmol), phenol (0.75 g, 7.95 mmol), triphenylphosphine (1.91 g, 7.29 mmol) in CH2Cl2 (20 mL) was added disopropyl azodicarboxylate (1.57 mL, 7.95 mmol). After being stirred overnight at room temperature under N2, the reaction mixture was concentrated. The residue was flash chromatographed using 10:90 hexane-EtOAc to give 1.09 g of 8-phenoxy-1,4-dioxaspiro[4.5]decane. MS (EI) calcd: (M+H)+=235.1; found: 235.0.

reactant | 1,4-dioxaspiro[4.5]decan-8-ol | 6.63 mmol, 1.05 g | O1CCOC12CCC(CC2)O | C8H14O3
reactant | phenol | 7.95 mmol, 0.75 g | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 7.29 mmol, 1.91 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylate | 7.95 mmol, 1.57 mL | N(=NC(=O)[O-])C(=O)[O-]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 8-phenoxy-1,4-dioxaspiro[4.5]decane | 1.09 g | O(C1=CC=CC=C1)C1CCC2(OCCO2)CC1 | C14H18O3
